US04443443
To the solution of N-(3-bromopropyl)phthalimide (40.5 g) in acetone (375 ml) were added 1-(2-hydroxyethyl)piperazine (31.5 g) and potassium carbonate (63.0 g). The resulting mixture was refluxed with stirring for 3 hours. The reaction mixture was filtered and the filtrate was evaporated. The residual oil was subjected to column chromatography on silica gel, eluting with a mixture of chloroform and methanol (9:1). The fractions containing the object compound were collected and then evaporated to give an oil of N-[3-[4-(2-hydroxyethyl)-1-piperazinyl]propyl]phthalimide (25.5 g).

reactant | N-(3-bromopropyl)phthalimide | 40.5 g | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
reactant | 1-(2-hydroxyethyl)piperazine | 31.5 g | OCCN1CCNCC1 | C6H14N2O
reactant | potassium carbonate | 63.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 375 ml | CC(=O)C | C3H6O
product | N-[3-[4-(2-hydroxyethyl)-1-piperazinyl]propyl]phthalimide | 25.5 g | OCCN1CCN(CC1)CCCN1C(C=2C(C1=O)=CC=CC2)=O | C17H23N3O3
